US04435407
4.5 g of cyanoacetic acid and 5.3 g of 2-aminothiazole, each in acetonitrile were combined, and the suspension (60 ml) was treated with a solution of 12.0 g of dicyclohexylcarbodiimide in 30 ml of acetonitrile. After exothermic reaction (and solidification) additional acetonitrile (60 ml) was added and the mixture stirred 1 hr and let stand overnight. The collected solid (20 g) was stirred with dilute (ca. 2%) NaOH solution and filtered. The filtrate was acidified with 6 N HCl and the product collected, washed with water, dried (m.p. 229°-230°) and recrystallized from acetone to give 2-(cyanoacetylamino)thiazole, m.p. 231°-2° dec.

reactant | cyanoacetic acid | 4.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | 2-aminothiazole | 5.3 g | NC=1SC=CN1 | C3H4N2S
reactant | dicyclohexylcarbodiimide | 12.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | NaOH | [OH-].[Na+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-(cyanoacetylamino)thiazole | C(#N)CC(=O)NC=1SC=CN1 | C6H5N3OS
